US04504479
6-{5-[2-(1-Imidazolyl)-ethyl]-thien-2-yl}-3-oxo-2,3,4,5-tetrahydro-pyridazine
4.2 g of 4-{5-[2-(1-imidazolyl)-ethyl]-thien-2-yl}-4-oxo-butyric acid are suspended in 10 ml of water, 0.8 g of hydrazine hydrate are added and the mixture is stirred at 90° C. for 2 hours. After the mixture has been cooled, it is extracted with chloroform. The chloroform phase is washed with water, dried over Na2SO4 and concentrated to dryness.

reactant | 4-{5-[2-(1-imidazolyl)-ethyl]-thien-2-yl}-4-oxo-butyric acid | 4.2 g | N1(C=NC=C1)CCC1=CC=C(S1)C(CCC(=O)O)=O | C13H14N2O3S
reactant | hydrazine hydrate | 0.8 g | O.NN
solvent | water | 10 ml | O | H2O
product | 6-{5-[2-(1-Imidazolyl)-ethyl]-thien-2-yl}-3-oxo-2,3,4,5-tetrahydro-pyridazine | N1(C=NC=C1)CCC1=CC=C(S1)C=1CCC(NN1)=O | C13H14N4OS
